* A:\Dropbox\GitHub\quiz2matlab\et52b\lab14\lab14c.asc
V1 Vpp 0 {Vpp}
V2 0 Vnn {Vnn}
Vi i 0 {Vi}
R0 out 0 {R0}
R1 out N001 {R1}
XU2 0 N001 Vpp Vnn out LMX24
Q2 N001 0 i 0 BC557B
.model NPN NPN
.model PNP PNP
.lib C:\Users\ruseler\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
.include A:\Dropbox\GitHub\quiz2matlab\et52b\lab14\LMx24.lib
.param Vpp=10 Vnn=10 R1=100 R0= 10k Vi=1
.op
.meas Gio param V(out)/V(i)
.backanno
.end
